US07858796B2
(273) 3-{1-[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
Following the general procedure in example 267, 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide (32 mg, 0.1 mmol), 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride (34.5 mg, 0.15 mmol) and triethylamine (0.06 mL, 0.3 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (22 mg, 43%).

reactant | 5-(phenyl)-3-(4-piperidinyl)-1H-indole-7-carboxamide | 0.1 mmol, 32 mg | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
reactant | 5-chloro-1,3-dimethyl-1H-pyrazole-4-sulfonyl chloride | 0.15 mmol, 34.5 mg | ClC1=C(C(=NN1C)C)S(=O)(=O)Cl | C5H6Cl2N2O2S
reactant | TEA | 0.3 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
product | 3-{1-[(5-chloro-1,3-dimethyl-1H-pyrazol-4-yl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | ClC1=C(C(=NN1C)C)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C25H26ClN5O3S
